US08124557B2
Grignard reagent, a t-butoxyhexylmagnesium chloride solution (0.14 mol) was obtained by reacting t-butoxyhexylchloride with Mg(O) in the presence of diethyl ether (Et2O) as a solvent. Trichloromethylsilane (24.7 ml, 0.21 mol) was added to the Grignard reagent at −100° C. and the mixture was stirred at room temperature for at least 3 hours and then filtered. The filtrate was dried in a vacuum to obtain t-butoxyhexyldichloromethylsilane (yield 84%).

reactant | t-butoxyhexylchloride | C(C)(C)(C)OCCCCCCCl | C10H21ClO
reactant | Trichloromethylsilane | 0.21 mol, 24.7 ml | ClC(Cl)(Cl)[SiH3] | CH3Cl3Si
solvent | diethyl ether | C(C)OCC | C4H10O
product | t-butoxyhexyldichloromethylsilane | yield 84% | C(C)(C)(C)OCCCCCC[SiH2]C(Cl)Cl | C11H24Cl2OSi
